US04137406
α-Methylthio(2-thienyl)acetic acid (1.731 g) was dissolved in 20 ml of methanol, and 10 mg of sodium tungstate and 3.34 ml of a 30% aqueous solution of hydrogen peroxide were added. The mixture was stirred at room temperature for 70 hours. To the reaction mixture were added 30 ml of water and 30 ml of methylene chloride. The organic layer was separated. The aqueous layer was extracted four times with 30 ml of methylene chloride. The resulting organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford yellow crystals. The crystals were dissolved in benzene, and the insoluble matter was separated by filtration. The residue was concentrated under reduced pressure. Recrystallization of the resulting yellow crystals from benzene/n-hexane afforded 997 mg of α-methylsulfonyl(2-thienyl)acetic acid as pale yellow crystals.

reactant | α-Methylthio(2-thienyl)acetic acid | 1.731 g | CSC(C(=O)O)C=1SC=CC1 | C7H8O2S2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 30 ml | O | H2O
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | methanol | 20 ml | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | sodium tungstate | 10 mg | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | α-methylsulfonyl(2-thienyl)acetic acid | 997 mg | CS(=O)(=O)C(C(=O)O)C=1SC=CC1 | C7H8O4S2
